US04845097
Synthesis of 5-Chloro-4-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine (Compound No. 12)
1.6 g of 4,5-dichloro-6-methylpyrimidine was dissolved in 50 ml of toluene. 1.0 g of triethylamine and 2.2 g of 2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamine were added to the solution, and the reaction mixture was heated under reflux for 5 hours, whilst stirring. At the end of this time, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. The toluene was removed by distillation under reduced pressure, and the oily product thus obtained was subjected to column chromatography (Wakogel C-200, eluted with a 2:1 by volume mixture of toluene and ethyl acetate) to isolate the product. The crystals thus obtained were recrystallized from hexane to afford 2.6 g of the title compound as colorless needles melting at 57°-58° C.

reactant | 4,5-dichloro-6-methylpyrimidine | 1.6 g | ClC1=NC=NC(=C1Cl)C | C5H4Cl2N2
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamine | 2.2 g | C(C)OCCC1=CC(=C(OCCN)C=C1)C | C13H21NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-4-{2-[4-(2-ethoxyethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 2.6 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CCOCC)C | C18H24ClN3O2
